US07282588B2
Preparation of N-[4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-2,2-dimethylpropanamide
A solution of [4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]amine (0.104 mmol) in methylene chloride (5 mL) was treated with triethylamine (0.3 mmol), DMAP (0.01 mmol) and pivalyl chloride (0.15 mmol). The reaction was stirred for 3 h at room temperature and concentrated. The residue was dissolved in ethyl acetate (10 mL) and washed with water (2×5 mL). The organic layer was concentrated and the residue purified by Gilson reverse phase HPLC to provide the title product as a white powder (82%). ESMS [M+H]+: 563.2

reactant | [4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]amine | 0.104 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCOCC2)C2=CC=C(C=C2)N | C29H30N6O
reactant | triethylamine | 0.3 mmol | C(C)N(CC)CC | C6H15N
reactant | pivalyl chloride | 0.15 mmol | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.01 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-2,2-dimethylpropanamide | 82% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCOCC2)C2=CC=C(C=C2)NC(C(C)(C)C)=O | C34H38N6O2
